US07351719B2
176) (E)-3-(4′-chloro-biphenyl-4-yl)-N-methyl-N-(4-piperidin-1-ylmethyl-phenyl)-acrylamide
Prepared analogously to Example 172 starting from (E)-3-(4′-chloro-biphenyl-4-yl)-acrylic acid and methyl-(4-piperidin-1-ylmethyl-phenyl)-amine.

reactant | (E)-3-(4′-chloro-biphenyl-4-yl)-acrylic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)O | C15H11ClO2
reactant | methyl-(4-piperidin-1-ylmethyl-phenyl)-amine | CNC1=CC=C(C=C1)CN1CCCCC1 | C13H20N2
product | (E)-3-(4′-chloro-biphenyl-4-yl)-N-methyl-N-(4-piperidin-1-ylmethyl-phenyl)-acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)N(C1=CC=C(C=C1)CN1CCCCC1)C | C28H29ClN2O
